US07622583B2
2-Chloro-3-[5-chloro-3-(4-chloro-3-trifluoromethyl benzenesulfonylamino)-pyridine-2-carbonyl]benzoic acid.
To an oven-dried vial containing N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl benzenesulfonamide (316 mg, 0.64 mmol) was added anhydrous THF (2 mL) under positive nitrogen pressure. The vial was cooled to −40 ° C. (dry ice-MeCN) and a 2.0 M solution of i-PrMgCl in THF (0.80 mL, 1.6 mmol) was added. After 5 min, the solution was warmed to 0 ° C. After a further 30 min, 2-chloro-N,N′-dimethoxy-N,N′-dimethyl-isophthalamide (320 mg, 1.11 mmol) was added, and the reaction mixture was warmed to room temperature over 1 h. The solution was maintained at room temperature for 24 h, after which time it was treated with saturated aqueous NH4Cl (10 mL), and poured into EtOAc (50 mL). The organic phase was washed with saturated aqueous NaCl (2×25 mL) and dried over MgSO4. The volatiles were removed in vacuo, and the residue purified by flash chromatography on 15 g of silica gel (0 →75% EtOAc-Hexanes). To the resulting product were added a 4.0 N solution of HCl in dioxane (2.0 mL, 8.0 mmol) and H2O (0.5 mL). The reaction mixture was heated to 80 ° C for 2 h, then cooled to room temperature. The volatiles were removed in vacuo. The product was purified by preparative HPLC (20→95% gradient of MeCN—H2O with 0.1% TFA) and the pure fractions lyophilized to afford the title compound (44 mg, 12% yield): HPLC retention time =2.76 minutes. MS (ES) [M−H]− expected 551.0, found 550.9. 1H NMR (400 MHz, CDCl3)δ 11.00 (s, 1 H), 8.18-8.21 (m, 3H), 8.08 (dd, J=2.0, 7.6 Hz, 1 H), 8.01 (dd, J=2.4, 8.4 Hz, 1 H), 7.67 (d, J=8.4 Hz, 1 H), 7.40-7.48 (m, 2H).

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl benzenesulfonamide | 0.64 mmol, 316 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | dry ice MeCN | C(=O)=O.CC#N
reactant | i-PrMgCl | C(C)(C)[Mg]Cl
reactant | 2-chloro-N,N′-dimethoxy-N,N′-dimethyl-isophthalamide | 1.11 mmol, 320 mg | ClC1=C(C(=O)N(C)OC)C=CC=C1C(=O)N(C)OC | C12H15ClN2O4
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | HCl | Cl | ClH
reactant | dioxane | 8.0 mmol, 2.0 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.5 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1.6 mmol, 0.80 mL | C1CCOC1 | C4H8O
product | 2-Chloro-3-[5-chloro-3-(4-chloro-3-trifluoromethyl benzenesulfonylamino)-pyridine-2-carbonyl]benzoic acid | 44 mg, 12% yield | ClC1=C(C(=O)O)C=CC=C1C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C20H10Cl3F3N2O5S
